US08859534B2
1-(5-(2-Bromoethyl)indolin-1-yl)ethanone
Triethylsilane (8.8 mL, 54.9 mmol) was added to a solution of 1-(1-acetylindolin-5-yl)-2-bromo-ethanone (1.9 g, 6.73 mmol) in trifluoroacetic acid (70 mL) at rt. The mixture was heated at 55° C. for 18 h, then cooled and concentrated under reduced pressure. The product was purified by flash chromatography (SiO2; hexane/EtOAc; 75/25). Yield: 1.2 g (67%).

reactant | Triethylsilane | 54.9 mmol, 8.8 mL | C(C)[SiH](CC)CC | C6H16Si
reactant | 1-(1-acetylindolin-5-yl)-2-bromo-ethanone | 6.73 mmol, 1.9 g | C(C)(=O)N1CCC2=CC(=CC=C12)C(CBr)=O | C12H12BrNO2
solvent | trifluoroacetic acid | 70 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 1-(5-(2-Bromoethyl)indolin-1-yl)ethanone | BrCCC=1C=C2CCN(C2=CC1)C(C)=O | C12H14BrNO
